US06514996B2
(Step A) 3-Allyloxy-2-bromo-4-methoxybenzaldehyde (Compound IIe-a)
2-Bromo-3-hydroxy-4-methoxybenzaldehyde (1.68 g) was dissolved in DMF (17 ml), and sodium hydride (0.209 g) was added thereto under ice-cooling, followed by stirring for 30 minutes. Allyl bromide (0.944 ml) was added to the mixture, followed by stirring at 60° C. for one hour. After being allowed to stand for cooling, water was added to the mixture and the precipitated solid was collected by filtration. The obtained crude crystals were recrystallized from isopropanol to give Compound IIe-a (1.30 g, 66%).

reactant | 2-Bromo-3-hydroxy-4-methoxybenzaldehyde | 1.68 g | BrC1=C(C=O)C=CC(=C1O)OC | C8H7BrO3
reactant | sodium hydride | 0.209 g | [H-].[Na+]
reactant | Allyl bromide | 0.944 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | 3-Allyloxy-2-bromo-4-methoxybenzaldehyde | C(C=C)OC=1C(=C(C=O)C=CC1OC)Br | C11H11BrO3
